US08304419B2
Step H: 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(methyloxy)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide
3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(methyloxy)benzonitrile (0.30 mmol) and 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (0.083 g, 0.30 mmol) were employed in a similar process described herein to prepare the title compound (0.096 g, 74%) as a white solid after deprotection and purification by Reverse-Phase HPLC (water:acetonitrile with 0.1% TFA). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.74 (s, 1H) 7.29-7.46 (m, 2H) 7.04 (s, 1H) 6.69-6.83 (m, 2H) 4.65 (s, 2H) 3.83 (s, 3H). ES-LCMS: m/z 435.8, 437.7 (M+1).

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(methyloxy)benzonitrile | 0.30 mmol | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)OC)F | C15H12ClFN2O2
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.30 mmol, 0.083 g | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(methyloxy)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide | 0.096 g, 74% | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)OC)C#N)F | C19H13Cl2FN4O3
